US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-7-ethylamino-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Pyridine (200 mg) and a 40% aqueous solution (250 mg) of methylamine were added to 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg), and the mixture was heated and stirred overnight at 70° C. The solvent was distilled off under reduced pressure, ethanol (2 ml) was added to the residue, and solids were collected by filtration to obtain the title compound (87 mg) as an orange powder.

reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | Pyridine | 200 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-7-ethylamino-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 87 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NCC)F)=O)C(=O)O)F)F | C18H13ClF3N3O3
